US07670613B2
(1R,3R)-2-Chloro-4-(3-hydroxy-cyclohexyloxy)-benzonitrile
A commercial mixture of cis/trans 1,3-cyclohexanediol (7.77 g, 66.9 mmol) was dissolved in 50 mL anhydrous THF (tetrahydrofuran), under a nitrogen atmosphere, and cooled in an ice/acetone bath. NaH (60% suspension in oil, 2.69 g, 6.725 mmol) was then added and the solution stirred approximately 10 min. Then a solution of 2-chloro-4-fluorobenzonitrile (1.06 gms, 6.79 mmol)(in 20 mL anhydrous THF was added in a slow, steady stream (not dropwise). The cold bath was removed, and allowed to stir at room temperature overnight. The reaction was quenched with approximately 10 mL 5% citric acid and the THF was removed by rotovap. off. Ethyl acetate was added and the layers were separated. The aqueous layer was extracted twice more with ethyl acetate and the organic layers were combined. The combined organic layers were washed twice with brine, then dried over magnesium sulfate, filtered and rotovapped. The resulting product was triturated with hexane, and the hexane decanted off. The crude product was chromatographed with an ethyl acetate hexane gradient (10% ethyl acetate to 50% ethyl acetate), and the desired fractions were combined, and the solvent removed. The results of two such runs were combined, and submitted for preparative reverse phase HPLC. The title compound (0.1575 g) was returned. HNMR (CDCl3, ppm) 7.5 (1H, d, J=8.8 Hz), 6.96 (1H, s), 6.82 (1H, d, J=8.8 Hz), 4.8-4.6 (1H, m), 4.2-4.1 (1H, m), 2.1-1.4 (9H, m).

reactant | trans 1,3-cyclohexanediol | 66.9 mmol, 7.77 g | [C@H]1(C[C@H](CCC1)O)O | C6H12O2
reactant | NaH | 6.725 mmol, 2.69 g | [H-].[Na+]
reactant | 2-chloro-4-fluorobenzonitrile | 6.79 mmol, 1.06 gms | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
solvent | THF | 50 mL | O1CCCC1 | C4H8O
solvent | THF | 20 mL | O1CCCC1 | C4H8O
product | (1R,3R)-2-Chloro-4-(3-hydroxy-cyclohexyloxy)-benzonitrile | 0.1575 g | ClC1=C(C#N)C=CC(=C1)O[C@H]1C[C@@H](CCC1)O | C13H14ClNO2
